US07737136B2
Tetrafluorosuccinic anhydride (5.35 μL, 0.05 mmol) was added to trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (10 mg, 0.03 mmol) in 1 mL of dioxane. The resulting mixture was stirred at room temperature for 30 minutes. Dioxane was removed by evaporation under reduced pressure and ethyl acetate and 2% citric acid were added. The organic layer was washed with brine, dried (Na2SO4) and evaporated to give trans-4-[(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)amino]-2,2,3,3-tetrafluoro-4-oxobutanoic acid (10.6 mg, 51%). Data: (m/z)=472 (M+H)+.

reactant | Tetrafluorosuccinic anhydride | 0.05 mmol, 5.35 μL | FC1(C(C(=O)OC1=O)(F)F)F | C4F4O3
reactant | trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 0.03 mmol, 10 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H17ClN2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | trans-4-[(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)amino]-2,2,3,3-tetrafluoro-4-oxobutanoic acid | 10.6 mg, 51% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(C(C(=O)O)(F)F)(F)F)=O)C=CC=C3)C=C1 | C21H17ClF4N2O4
